US05518539
24.29 g (0.111 mol) of di-tert-butyldicarbonate are added to a mixture of 8.44 g (0.021 mol) of 1,4-diketo-3,6-di-(4-tert-butylphenyl)-pyrrolo[3,4-c]pyrrole and 1.49 g (0.012 mol) of 4-dimethylaminopyridine in 100 ml of N,N-dimethylformamide (dried over a molecular sieve). The resultant red suspension is stirred for 3 hours at room temperature, with the exclusion of atmospheric moisture. The colour changes to orange. The precipitated substance is isolated by filtration, the residue is washed repeatedly with cold distilled water and dried under vacuum at room temperature, affording 11.40 g (90% of theory of) N,N'-di-tert-butoxycarbonyl- 1,4-diketo-3,6-di-(4-tert-butylphenyl)-pyrrolo[3,4-c]pyrrole as a brilliant yellow product.

reactant | di-tert-butyldicarbonate | 0.111 mol, 24.29 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,4-diketo-3,6-di-(4-tert-butylphenyl)-pyrrolo[3,4-c]pyrrole | 0.021 mol, 8.44 g | O=C1N=C(C2=C1C(=NC2=O)C2=CC=C(C=C2)C(C)(C)C)C2=CC=C(C=C2)C(C)(C)C | C26H26N2O2
catalyst | 4-dimethylaminopyridine | 0.012 mol, 1.49 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N,N'-di-tert-butoxycarbonyl- 1,4-diketo-3,6-di-(4-tert-butylphenyl)-pyrrolo[3,4-c]pyrrole | 11.40 g, 90% | C(C)(C)(C)OC(=O)N1C(C2=C(N(C(C2=C1C1=CC=C(C=C1)C(C)(C)C)=O)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C(C)(C)C)=O | C36H44N2O6
